US06495546B1
8-[(2S)-2-Hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester hydrochloride was converted to the corresponding free base in a usual manner. A solution of the base (91 mg) in methanol (1 ml) and 1N sodium hydroxide aqueous solution (0.246 ml) was stirred at 70° C. for 6 hours and evaporated in vacuo. The residue was triturated in diisopropyl ether, and the precipitated powder was collected by filtration to afford sodium 8-[(2S)-2-hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylate (74 mg).

reactant | 8-[(2S)-2-Hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1C=CC2=C(CC(CCC2)NC[C@@H](COC2=CC=CC=C2)O)C1
reactant | sodium hydroxide | 1N, 0.246 ml | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | sodium 8-[(2S)-2-hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylate | 74 mg | O[C@@H](CNC1CCCC2=C(C1)C=C(C=C2)C(=O)[O-])COC2=CC=CC=C2.[Na+] | InChI=1S/C21H25NO4.Na/c23-19(14-26-20-7-2-1-3-8-20)13-22-18-6-4-5-15-9-10-16(21(24)25)11-17(15)12-18;/h1-3,7-11,18-19,22-23H,4-6,12-14H2,(H,24,25);/q;+1/p-1/t18?,19-;/m0./s1
